US06416746B1
a) 4-Triethylsilanyl-1-but-3-enol
A 50 ml reaction flask was charged with 1-butyne-3-ol and a catalytic amount of bis(1,5-cyclooctadiene)-di-Rh(I)-dichloride and triphenylphosphine under an inert atmosphere. Triethylsilane was slowly added to the reaction flask through a dropping funnel. The reaction mixture was stirred at room temperature for 72 hours and then concentrated at the rotary evaporator. The product was chromatographed through SiO2 in a hexane:ethylacetate solution (95:5 to 70:30) to yield 86% of a yellow liquid. Purity according to gas chromatography was 96% trans and 3.4% cis product.

reactant | 1-butyne-3-ol | C#CC(C)O | C4H6O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Triethylsilane | C(C)[SiH](CC)CC | C6H16Si
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 4-Triethylsilanyl-1-but-3-enol | 86% | C(C)[Si](C=CCCO)(CC)CC | C10H22OSi
